US05543416
3-Isopropylisoxazole-4,5-dicarboxylic acid 4-methyl ester
40 g of dimethyl 3-isopropylisoxazole-4,5-dicarboxylate are dissolved in 200 ml of methanol. A solution of 7.05 g of sodium hydroxide in 50 ml of water is added dropwise at 0° C. to this solution. It is stirred for 14 hours and allowed to warm to room temperature. The reaction selution is diluted with water and extracted twice with ethyl acetate. The alkaline solution is then acidified with conc. hydrochloric acid and extracted several times with ethyl acetate, and the organic phase is dried and concentrated.

reactant | dimethyl 3-isopropylisoxazole-4,5-dicarboxylate | 40 g | C(C)(C)C1=NOC(=C1C(=O)OC)C(=O)OC | C10H13NO5
reactant | sodium hydroxide | 7.05 g | [OH-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 3-Isopropylisoxazole-4,5-dicarboxylic acid 4-methyl ester | COC(=O)C=1C(=NOC1C(=O)O)C(C)C | C9H11NO5
